data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccc(OC)cc1_2-c1ccccc1_3-COCC","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccc(OC)cc1)(O)(c1ccccc1)(COCC)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C=C(c1ccccc1)(COCC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccc(OC)cc1)(c1ccccc1)(COCC)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccc(OC)cc1)(c1ccccc1)(COCC)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from c1ccccc1 and COCC."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccc(OC)cc1)=C=C(c1ccccc1)(COCC)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C=C(c1ccccc1)(COCC)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-137_1-C(F)(F)F_2-C(C)(C)C_3-CCCC(C)C_4-c1ccccc1","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(F)(F)F)C(=O)C(C(C)(C)C)","O=CC(CCCC(C)C)"],"products_smiles": ["C1(CCCC(C)C)OC(c1ccccc1)C(C(C)(C)C)C(=O)C1(C(F)(F)F)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)(C)C)C(=O)C(=C(CCCC(C)C))(C(F)(F)F)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CCCC(C)C)=C(C(F)(F)F)C(=O)C(C(C)(C)C)C(O)(c1ccccc1)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)=C(C(F)(F)F)C(=[OH+])C(C(C)(C)C)C(O)(c1ccccc1)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CCCC(C)C)C(C(F)(F)F)=C(O)C(C(C)(C)C)C(c1ccccc1)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)C(C(F)(F)F)=C(O)C(C(C)(C)C)C(c1ccccc1)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)OC(c1ccccc1)C(C(C)(C)C)C(=O)C1(C(F)(F)F)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
